US04673682
20.5 g of 1-phenylisoquinoline are dissolved in 100 ml of carbon tetrachloride, and 16 g of bromine are added at room temperature. The temperature is raised slowly and the mixture is kept under reflux for 1 hour. 7.9 g of pyridine in 10 ml of carbon tetrachloride are added dropwise to the boiling reaction mixture in the course of 2 hours, and the mixture is then heated at reflux temperature for a further 18 hours. The reaction solution is decanted off from the resinous precipitate and is concentrated, and the residue is crystallized from diisopropyl ether. 11.7 g of 4-bromo-1-phenylisoquinoline of melting point 123°-125° C. are obtained. 0.7 g of 4-bromo-1-phenylisoquinoline, 0.45 g of copper cyanide and 10 ml of dimethylformamide are heated at 160° C. for 6 hours. The reaction solution is decanted off, diluted with methylene chloride and washed with water. 0.75 g of crude product are isolated from the methylene chloride phase, and 0.2 g of 4-cyano-1-phenylisoquinoline of melting point 138°-140° is obtained from this crude product by column chromatography over silica gel using a 98:2 mixture of chloroform and ethyl acetate. 0.2 g of 4-cyano-1-phenylisoquinoline is heated with 10 ml of 20% strength sodium hydroxide solution at 100° C. for 4 hours. The solution is cooled and acidified with acetic acid. The precipitate is filtered off and dried. 0.18 g of 1-phenylisoquinoline-4-carboxylic acid of melting point 215°-217° is isolated.

reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 4-cyano-1-phenylisoquinoline | 0.2 g | C(#N)C1=CN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C16H10N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-phenylisoquinoline-4-carboxylic acid | 0.18 g | C1(=CC=CC=C1)C1=NC=C(C2=CC=CC=C12)C(=O)O | C16H11NO2
